US06140274
To a solution of 31.0 g of 3,5-diethyl-1-benzoyloxy-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene dissolved in 100 ml of methanol added a solution of 5.1 g of potassium hydroxide dissolved in 25 g of water. After stirring at room temperature for 1 hour, the reaction mixture was acidified by the addition of diluted hydrochloric acid and then concentrated. Water was added to the residue, which was extracted twice with ethyl acetate. The ethyl acetate layers were combined, washed with water, dried over magnesium sulfate and then concentrated. The residue was subjected to silica gel chromatography, which afforded 0.60 g of 3,5-diethyl-4-(4-(2,2-diethoxyethoxy)butyloxy)phenol (yield, 94%), nD25.0 1.4890.

reactant | 3,5-diethyl-1-benzoyloxy-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene | 31.0 g | C(C)C=1C=C(C=C(C1OCCCCOCC(OCC)OCC)CC)OC(C1=CC=CC=C1)=O | C27H38O6
reactant | potassium hydroxide | 5.1 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 25 g | O | H2O
product | 3,5-diethyl-4-(4-(2,2-diethoxyethoxy)butyloxy)phenol | 0.60 g, 94% | C(C)C=1C=C(C=C(C1OCCCCOCC(OCC)OCC)CC)O | C20H34O5
